US08536214B2
f) Benzyl 5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-1-ylcarbamate
To a solution of ethyl 1-((1-(benzyloxycarbonylamino)-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazole-4-carboxylate (5.21 mmol, 2.54 g) in THF (40 mL) at 0° C. was added lithium aluminium hydride (5.21 mmol, 5.21 mL) in a dropwise fashion. The whole was stirred at room temperature for 2 h before the reaction mixture was quenched by the dropwise addition of methanol followed by sat Rochelle's salt. The organics were extracted with DCM (2×100 mL) and dried (1PS paper) before being concentrated under reduced pressure. The residue was purified by flash chromatography (100 g, 1:1 EtOAc/heptane) to give a white solid (1.72 g, 3.86 mmol, 74.1%). 1H NMR (400 MHz, CDCl3) δ 1.85 (m, 2H) 2.60 (m, 1H) 2.85 (m, 1H) 2.95 (m, 1H) 4.63 (brs, 2H) 5.00 (d, 1H) 5.14 (s, 2H) 5.20 (m, 1H) 5.25 (s, 2H) 7.09 (d, 2H) 7.34 (m, 7H).

reactant | ethyl 1-((1-(benzyloxycarbonylamino)-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazole-4-carboxylate | 5.21 mmol, 2.54 g | C(C1=CC=CC=C1)OC(=O)NC1CCC2=CC(=CC=C12)CN1N=C(C(=C1)C(=O)OCC)C(F)(F)F | C25H24F3N3O4
reactant | lithium aluminium hydride | 5.21 mmol, 5.21 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Benzyl 5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-1-ylcarbamate | 3.86 mmol, 1.72 g, 74.1% | OCC=1C(=NN(C1)CC=1C=C2CCC(C2=CC1)NC(OCC1=CC=CC=C1)=O)C(F)(F)F | C23H22F3N3O3
